.title kicad schematic

.include pmos_osu180.lib
m1 bl pr_en vdd vdd pfet W=0.135u L=0.18u M=1
m3 blb pr_en vdd vdd pfet W=0.135u L=0.18u M=1
v1 vdd gnd  dc 1.8
v2  pr_en gnd pwl(0n 0 0.5n 1.8 50n 1.8 50.5n 0 100n 0)
* u2  blb plot_v1
* u1  bl plot_v1
.tran 10e-09 100e-09 0e-09

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(blb)
plot v(bl)
.endc
.end
